US06380242B1
(dd) 1-(2-(N,N-diethylamino)ethyl)-6-(3-pyridinyl)-1H-indole:
(16.6 mg , 56%); from 6-bromo-1-(2-(N,N-diethylamino)ethyl) indole (30.7 mg, 0.101 mmol) and pyridine-3-boronic acid 1,3-propanediol cyclic ester (33.0 mg,0.202 mmol).

reactant | 6-bromo-1-(2-(N,N-diethylamino)ethyl) indole | 0.101 mmol, 30.7 mg | BrC1=CC=C2C=CN(C2=C1)CCN(CC)CC | C14H19BrN2
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 0.202 mmol, 33.0 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
product | 1-(2-(N,N-diethylamino)ethyl)-6-(3-pyridinyl)-1H-indole | C(C)N(CC)CCN1C=CC2=CC=C(C=C12)C=1C=NC=CC1 | C19H23N3
